US08445408B2
A mixture of 0.10 g (0.43 mmol) of 4,5-dichloro-6-(trifluoromethyl)pyrimidin-2-amine, 0.08 g (0.51 mmol) of (1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-amine and 0.14 g (1.3 mmol) of potassium carbonate in 1 ml of dimethylacetamide as solvent is heated at 125° C. for 30 minutes in a microwave appliance (Biotage Initiator, http://www.biotage.com/DynPage.aspx?id=22001). The crude mixture is absorbed on silica gel and, following column chromatographic separation, 0.089 g of 5-chloro-N4-[(1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-yl]-6-(trifluoromethyl)pyrimidin-2,4-diamine is obtained (solid, 55% yield, 95% purity).

reactant | 4,5-dichloro-6-(trifluoromethyl)pyrimidin-2-amine | 0.43 mmol, 0.10 g | ClC1=NC(=NC(=C1Cl)C(F)(F)F)N | C5H2Cl2F3N3
reactant | (1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-amine | 0.51 mmol, 0.08 g | C[C@@H]1[C@H](C2=CC(=CC=C2C1)C)N | C11H15N
reactant | potassium carbonate | 1.3 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 1 ml | CC(=O)N(C)C | C4H9NO
product | 5-chloro-N4-[(1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-yl]-6-(trifluoromethyl)pyrimidin-2,4-diamine | 0.089 g, 55% yield | ClC=1C(=NC(=NC1C(F)(F)F)N)N[C@@H]1[C@H](CC2=CC=C(C=C12)C)C | C16H16ClF3N4
